US07737166B2
2-(Diethylamino)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#58)
2-(Diethylamino)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-133) (78 mg, 0.24 mmol) was dissolved in dimethyl sulfoxide (2 ml) in a sealed tube, then triethylamine (67 μl, 0.48 mmol) and (3S)-3-(dimethylamino)pyrrolidine (61 μl, 0.48 mmol) were added. The reaction system was heated at 150° C. for 4.5 hours and then at 100° C. for 60 hours. After cooling to room temperature, the reaction liquid was fractionated with ethyl acetate and saturated brine. The aqueous layer was separated, and this was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=92:8) to obtain the entitled compound (66 mg, 65%) as a brown solid.

reactant | 2-(Diethylamino)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.24 mmol, 78 mg | C(C)N(C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N)CC | C19H18FN3O
reactant | triethylamine | 0.48 mmol, 67 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.48 mmol, 61 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2-(Diethylamino)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 66 mg, 65% | C(C)N(C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N)CC | C25H31N5O
